US06518423B1
N-Phenyl-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]-benzothiazin-8-yl)acetamidine
350 mg of methyl(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetothioimidate was dissolved in a solvent mixture of tetrahydrofuran (7 ml) with methanol (15 ml). After adding 0.5 ml of aniline, the resulting mixture was heated under reflux for 5 hours. Then the reaction mixture was brought back to room temperature. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol/aqueous ammonia) to thereby give 250 mg of the title compound as yellow crystals.

reactant | methyl(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetothioimidate | 350 mg | CSC(CC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1)=N | C15H16N4OS2
reactant | aniline | 0.5 ml | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | methanol | 15 ml | CO | CH4O
product | N-Phenyl-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]-benzothiazin-8-yl)acetamidine | 250 mg | C1(=CC=CC=C1)NC(CC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1)=N | C20H19N5OS
